US05187156
Boc-Thr-OH (1.23 g), HCl.H-D-Trp(CHO)-Phe-NMeBzl (3.0 g) and HOBT (0.757 g) were dissolved in DMF (40 ml). To this solution was added WSC (887 mg) under ice cooling and the mixture was stirred for 1.5 hours at the same temperature and overnight at room temperature. After evaporation and extraction with ethyl acetate, the organic layer was washed successively with water, diluted sodium hydrogencarbonate solution, water, 0.5N hydrochloric acid, and sodium chloride solution and dried over magnesium sulfate. The evaporated residue was crystallized from a mixed solvent of ethyl acetate and diisopropyl ether (1:1) (10 ml) with seeding and the crystals were washed out by addition of diisopropyl ether (30 ml) and dried to give Boc-Thr-D-Trp(CHO)-Phe-NMeBzl (3.64 g).

reactant | Boc-Thr-OH | 1.23 g | N([C@@H]([C@H](O)C)C(=O)O)C(=O)OC(C)(C)C | C9H17NO5
reactant | HCl | Cl | ClH
reactant | H-D-Trp(CHO)-Phe-NMeBzl | 3.0 g | N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1 | C29H30N4O3
reactant | HOBT | 0.757 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 887 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | Boc-Thr-D-Trp(CHO)-Phe-NMeBzl | 3.64 g | N([C@@H]([C@H](O)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1)C(=O)OC(C)(C)C | C38H45N5O7
